US08008321B2
Synthesis of 8-(benzyloxy)imidazo[1,5-a]pyridine
This compound is prepared according to the same procedure as in preparation II (stage C) from 2.8 g (13.25 mmol) of 1-[3-(benzyloxy)pyridin-2-yl]methanamine [described in Inorg. Chem., (2003), 42(14), 4401] by formylation with formic acid and then cyclization by reaction with phosphoryl chloride. 1.74 g of a brown oil are obtained.

reactant | 1-[3-(benzyloxy)pyridin-2-yl]methanamine | 13.25 mmol, 2.8 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CN | C13H14N2O
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | formic acid | C(=O)O | CH2O2
product | 8-(benzyloxy)imidazo[1,5-a]pyridine | 1.74 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=NC2 | C14H12N2O
